US07365095B2
Treatment of 2-bromobiphenyl (6.85 g, 29.4 mmol) with 2-fluoro-6-methoxybenzene boronic acid (5.0 g, 29.4 mmol) in DME-water (5:1, 150 mL) according to the procedure described for Example 69, Step 1 provided 7.3 g (89%) of 5-fluoro-2-methoxy-2′-phenylbiphenyl as a colorless oil.

reactant | 2-bromobiphenyl | 29.4 mmol, 6.85 g | BrC1=C(C=CC=C1)C1=CC=CC=C1 | C12H9Br
reactant | 2-fluoro-6-methoxybenzene boronic acid | 29.4 mmol, 5.0 g | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | DME water | 150 mL | COCCOC.O
product | 5-fluoro-2-methoxy-2′-phenylbiphenyl | 7.3 g, 89% | FC=1C=CC(=C(C1)C1=C(C=CC=C1)C1=CC=CC=C1)OC | C19H15FO
